US04632938
To a mixed solution consisting of 200 ml of conc. hydrochloric acid and 50 ml of ethanol was added 50 g of crude 2-fluoro-4-thiocyanatoaniline, and the mixture was heated under reflux for 8 hours. The crystals, which separated out upon standing overnight, were recovered by filtration and dried in a desiccator to give 44 g of crude 2-fluoro-4-mercaptoaniline hydrochloride. 44 g of crude 2-fluoro-4-mercaptoaniline hydrochloride was suspended in 100 ml of dioxane, and 30 g of triethylamine was added to the suspension. Tetrafluoroethylene was passed into the mixture over the period of 1.5 hours under heating at 50° to 60° C. with stirring (tetrafluoroethylene was generated in accordance with the conventional method by reacting 40 ml of 1,2-dibromotetrafluoroethane with 100 g of powdered zinc in methanol). After the conclusion of the reaction, the reaction mixture was diluted with water and extracted twice with 100 ml of dichloromethane. The dichloromethane extract was dehydrated with anhydrous magnesium sulfate and concentrated to dryness under reduced pressure to give 42.1 g of a yellow oily material. The oily material was distilled under reduced pressure to give 29.5 g of 2-fluoro-4-(1,1,2,2-tetrafluoroethylthio)-aniline as a colorless liquid having a boiling point of 70° to 72° C./0.6 mmHg.

reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | 2-fluoro-4-thiocyanatoaniline | 50 g | FC1=C(N)C=CC(=C1)SC#N | C7H5FN2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-fluoro-4-mercaptoaniline hydrochloride | 44 g | Cl.FC1=C(N)C=CC(=C1)S | InChI=1S/C6H6FNS.ClH/c7-5-3-4(9)1-2-6(5)8;/h1-3,9H,8H2;1H
